US06897231B2
[4-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL](METHYLSULFONYL)AMINE
The title compound was prepared as described in Example 376, using 4-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.258 g, 0.43 mmol) in tetrahydrofuran (4.5 mL) was added methanesulfonyl chloride (0.05 mL, 0.64 mmol) and triethylamine (0.30 mL, 2.14 mmol). The final crude product was purified by preparative HPLC (10-100% acetonitrile to H20, 20 min.) (0.042 g, 28% yield): 1H NMR (CD3OD) δ 7.93 (dd, 1H), 8.54 (br s, 1H), 8.29 (dd, 1H), 8.20 (m, 2H), 7.87 (dd, 1H), 7.62 (m, 2H), 3.23 (s, 3H); ES-MS (m/z) 355 [M+1]+.

reactant | 4-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.43 mmol, 0.258 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)N | C39H34N6O
reactant | methanesulfonyl chloride | 0.64 mmol, 0.05 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.14 mmol, 0.30 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
product | [4-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL](METHYLSULFONYL)AMINE | 28% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)NS(=O)(=O)C | C16H14N6O2S
